US05962490
N-(4-chloro-3-methyl-5-isoxazolyl)-2-(3-acetoxymethyl-2,4, 6-trimethylphenylaminocarbonyl)thiophene-3-sulfonamide;
N-(4-chloro-3-methyl-5-isoxazolyl)-2-(3-hydroxymethyl-2,4,6-trimethylphenylamino-carbonyl)thiophene-3-sulfonamide; and N-(4-chloro-3-methyl-5-isoxazolyl)-2-(3-methoxycarbonyl-2,4, 6-trimethylphenylaminocarbonyl)thiophene-3-sulfonamide.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-2-(3-hydroxymethyl-2,4,6-trimethylphenylamino-carbonyl)thiophene-3-sulfonamide | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(=O)NC1=C(C(=C(C=C1C)C)CO)C)C | C19H20ClN3O5S2
reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-2-(3-methoxycarbonyl-2,4, 6-trimethylphenylaminocarbonyl)thiophene-3-sulfonamide | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(=O)NC1=C(C(=C(C=C1C)C)C(=O)OC)C)C | C20H20ClN3O6S2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-(3-acetoxymethyl-2,4, 6-trimethylphenylaminocarbonyl)thiophene-3-sulfonamide | ClC=1C(=NOC1NS(=O)(=O)C1=C(SC=C1)C(=O)NC1=C(C(=C(C=C1C)C)COC(C)=O)C)C | C21H22ClN3O6S2
